US08614239B2
Preparation of N-(4,5-Difluoro-6-(2-fluoro-4-iodophenylamino)benzo[d]oxazol-7-yl)-1-(hydroxymethyl)cyclopropane-1-sulfonamide (1N)
1-(Benzyloxymethyl)-N-(4,5-difluoro-6-(2-fluoro-4-iodophenylamino)-benzo[d]oxazol-7-yl)cyclopropane-1-sulfonamide (100 mg, 0.158 mmol) in DCM (10 mL) was reacted with 1.0M solution of BCl3 in DCM (0.476 mL, 0.476 mmol) to afford the crude product. The reaction mixture was quenched with ice and extracted using ethyl acetate. The organic layer was washed with water, brine solution, dried over anhydrous Na2SO4 and concentrated. Purification by preparative TLC (70% ethyl acetate in hexane) afforded 35 mg of the product (42% yield). H1NMR (CDCl3, 300 MHz): δ 8.1 (s, 1H), 7.4 (d, 1H), 7.3-7.2 (m, 1H), 7.1 (s, 1H), 6.8 (s, 1H), 6.5-6.4 (m, 1H), 4.1 (s, 2H), 2.7 (s, 1H), 1.4 (t, 2H), 1.0 (t, 2H). LCMS: 97.25%, m/z=537.8 (M−11). HPLC: 95.5%

reactant | 1-(Benzyloxymethyl)-N-(4,5-difluoro-6-(2-fluoro-4-iodophenylamino)-benzo[d]oxazol-7-yl)cyclopropane-1-sulfonamide | 0.158 mmol, 100 mg | C(C1=CC=CC=C1)OCC1(CC1)S(=O)(=O)NC1=C(C(=C(C=2N=COC21)F)F)NC2=C(C=C(C=C2)I)F | C24H19F3IN3O4S
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.476 mmol, 0.476 mL | C(Cl)Cl | CH2Cl2
product | N-(4,5-Difluoro-6-(2-fluoro-4-iodophenylamino)benzo[d]oxazol-7-yl)-1-(hydroxymethyl)cyclopropane-1-sulfonamide | 35 mg, 42% yield | FC1=C(C(=C(C2=C1N=CO2)NS(=O)(=O)C2(CC2)CO)NC2=C(C=C(C=C2)I)F)F | C17H13F3IN3O4S
